US05495023
A solution of (E,E)-4-ethyl-2,4-hexadien-1-ol (2.0 g) and ethyl isocyanate (1.13 g) in 1,2-dichloroethane (12 ml) was stirred at 0° C. for 3 hours and at room temperature for 12 hours. The reaction mixture was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel (chloroform) to give (E,E)-4-ethyl-2,4-hexadien-1-yl ethylcarbamate (2.5 g) as an oil.

reactant | (E,E)-4-ethyl-2,4-hexadien-1-ol | 2.0 g | C(C)/C(/C=C/CO)=C\C | C8H14O
reactant | ethyl isocyanate | 1.13 g | C(C)N=C=O | C3H5NO
solvent | 1,2-dichloroethane | 12 ml | ClCCCl | C2H4Cl2
product | (E,E)-4-ethyl-2,4-hexadien-1-yl ethylcarbamate | 2.5 g | C(C)NC(OC\C=C\C(=C\C)\CC)=O | C11H19NO2
